US05872118
A mixture of diethyl 2-(2-(2-fluorophenyl)ethyl)malonate (381.8 g, 1.35 mol) and potassium hydroxide (227.3 g, 4.1 mol) and potassium hydroxide (227.3 g, 4.1 mol) in ethanol (500 mL) and water (500 mL) was refluxed for 24 h. The reaction mixture was placed in an ice bath and hydrochloric acid (6N, 442 mL) was added. The ethanol was removed in vacuo and the aqueous residue was extracted with diethyl ether. The extracts were dried (MgSO4) and concentrated in vacuo to give 309.3 g (100%) of 2-(2-(2-fluorophenyl)ethyl)malonic acid as an off-white solid. This product was used without further purification. NMR (DMSO-d6): d 6.8-6.2 (m, 4H, ArH), 2.4 (t, 1H, CH), 1.9 (q, 2H, CH2), 1.3 (t, 2H, CH2). IR (KBr) 1691 CM-1.

reactant | diethyl 2-(2-(2-fluorophenyl)ethyl)malonate | 1.35 mol, 381.8 g | FC1=C(C=CC=C1)CCC(C(=O)OCC)C(=O)OCC | C15H19FO4
reactant | potassium hydroxide | 4.1 mol, 227.3 g | [OH-].[K+]
reactant | potassium hydroxide | 4.1 mol, 227.3 g | [OH-].[K+]
reactant | hydrochloric acid | 6N, 442 mL | Cl | ClH
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 500 mL | O | H2O
product | 2-(2-(2-fluorophenyl)ethyl)malonic acid | 309.3 g, 100% | FC1=C(C=CC=C1)CCC(C(=O)O)C(=O)O | C11H11FO4
